US07323466B2
(R)-1-Chloro-3-(3-chloro-4-methylsulfanyl-phenyl)-propan-2-ol
The solution of 1.1 g (4.6 mmol) 4-bromo-2-chloro-1-methylsulfanyl-benzene (e.g. Joshi, R. S et. al.; J. Karnatak University (1959), 4, 38-42) in 40 mL diethyl ether was cooled down to −115° C. Then, 3.0 mL tert-butyllithium (4.5 mmol; 1.5M solution in n-pentane) was added dropwise and after stirring for 50 min. at −100° C. 0.54 mL (6.9 mmol) (R)-(−)-epichlorohydrin was added. After 45 min. the reaction was allowed to warm to 0° C. and after another 1.5 h was quenched with water and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed using MPLC and tert-butyl methyl ether: n-heptane (1:2 v/v) as eluant to give the compound as a colorless oil (35%).

reactant | 4-bromo-2-chloro-1-methylsulfanyl-benzene | 4.6 mmol, 1.1 g | BrC1=CC(=C(C=C1)SC)Cl | C7H6BrClS
reactant | tert-butyllithium | 4.5 mmol, 1.5M, 3.0 mL | C(C)(C)(C)[Li]
reactant | (R)-(−)-epichlorohydrin | 6.9 mmol, 0.54 mL | C(Cl)[C@H]1CO1 | C3H5ClO
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | (R)-1-Chloro-3-(3-chloro-4-methylsulfanyl-phenyl)-propan-2-ol | 35% | ClC[C@@H](CC1=CC(=C(C=C1)SC)Cl)O | C10H12Cl2OS
